US09108970B2
6-(cis-2-Amino-3,3-difluorocyclohexylamino)-4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
A mixture of 4,6-dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one (100 mg, 0.269 mmol) and cis-3,3-difluorocyclohexane-1,2-diamine hydrochloride (75 mg, 0.404 mmol) and DIPEA (118 μL, 0.674 mmol) in acetonitrile (449 μL) was stirred at 100° C. for 3 d. The reaction mixture was concentrated to a brown oil and reconstituted in DMF (1 mL). The residue was purified by preparative HPLC, the appropriate fraction was collected, and excess acetonitrile was evaporated. The residue was treated with saturated aq sodium carbonate and extracted with EtOAc (3×20 mL). The organic layers were combined, dried over sodium sulfate, and concentrated to give the title compound as a colorless residue (13.7 mg, 10%). [M+H] calc'd for C22H24ClF3N4O3, 485; found, 485.

reactant | 4,6-dichloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 0.269 mmol, 100 mg | ClC1=NC(=C(C2=C1C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F)Cl | C16H13Cl2FN2O3
reactant | cis-3,3-difluorocyclohexane-1,2-diamine hydrochloride | 0.404 mmol, 75 mg | Cl.FC1([C@@H]([C@@H](CCC1)N)N)F
reactant | DIPEA | 0.674 mmol, 118 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 449 μL | C(C)#N | C2H3N
product | 6-(cis-2-Amino-3,3-difluorocyclohexylamino)-4-chloro-2-(2,4-dimethoxybenzyl)-7-fluoro-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | N[C@@H]1[C@@H](CCCC1(F)F)NC1=C(C2=C(C(=N1)Cl)C(N(C2)CC2=C(C=C(C=C2)OC)OC)=O)F | C22H24ClF3N4O3
